US06071925
(RS)-8-Indan-1-yl-3-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, m.p. 200-203° C. and MS: m/e=362.2 (M+H+) was prepared in accordance with the general method of example 4 from (RS)-8-indan-1-yl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1) and methyl iodide.

reactant | (RS)-8-indan-1-yl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C1(CCC2=CC=CC=C12)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | methyl iodide | CI | CH3I
product | (RS)-8-Indan-1-yl-3-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C1(CCC2=CC=CC=C12)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1 | InChI=1S/C23H27N3O.ClH/c1-24-17-26(19-8-3-2-4-9-19)23(22(24)27)13-15-25(16-14-23)21-12-11-18-7-5-6-10-20(18)21;/h2-10,21H,11-17H2,1H3;1H
